US04618677
The procedure described in Example 17(a) was followed, using 27.0 g of 3-(4-chlorophenyl)propyl piperazine, 22.0 g of potassium hydroxide, 250 ml of dimethyl sulfoxide and 17.7 g of 1-bromo-3-chloropropane to give 22.9 g (54% of theory) of 1-[3-(4-chlorophenyl)propyl]-4-(3-chloropropyl)piperazine dihydrochloride.

reactant | 3-(4-chlorophenyl)propyl piperazine | 27.0 g | ClC1=CC=C(C=C1)CCCN1CCNCC1 | C13H19ClN2
reactant | potassium hydroxide | 22.0 g | [OH-].[K+]
reactant | 1-bromo-3-chloropropane | 17.7 g | BrCCCCl | C3H6BrCl
solvent | dimethyl sulfoxide | 250 ml | CS(=O)C | C2H6OS
product | 1-[3-(4-chlorophenyl)propyl]-4-(3-chloropropyl)piperazine dihydrochloride | 22.9 g, 54% | Cl.Cl.ClC1=CC=C(C=C1)CCCN1CCN(CC1)CCCCl | InChI=1S/C16H24Cl2N2.2ClH/c17-8-2-10-20-13-11-19(12-14-20)9-1-3-15-4-6-16(18)7-5-15;;/h4-7H,1-3,8-14H2;2*1H
